US08202858B2
(E)-3-[2-Methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-acrylic Acid Tert-butyl Ester
4-((E)-2-tert-Butoxycarbonyl-vinyl)-3-methyl-benzoic acid from Example E45.1 (1.1 g, 4.2 mmol) and 3-methyl-3,4,9,10-tetrahydro-2,3,4,9-tetraaza-benzo[f]azulene from Example E11 (720 mg, 3.6 mmol) were dissolved in dichloromethane (50 ml) and triethylamine (0.75 ml). DMAP (4.45 g, 3.6 mmol) and WSCD (1.36 g, 7.1 mmol) were added and the mixture was heated at re-flux for 2 days. The solution was diluted with di-chloromethane, washed with 0.3M KHSO4, saturated NaHCO3 then brine, dried and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; EtOAc) to yield the title compound (1.35 g, 82%).

reactant | 4-((E)-2-tert-Butoxycarbonyl-vinyl)-3-methyl-benzoic acid | C(C)(C)(C)OC(=O)/C=C/C1=C(C=C(C(=O)O)C=C1)C | C15H18O4
reactant | 3-methyl-3,4,9,10-tetrahydro-2,3,4,9-tetraaza-benzo[f]azulene | CN1N=CC=2CNC3=C(NC12)C=CC=C3 | C11H12N4
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | triethylamine | 0.75 ml | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 3.6 mmol, 4.45 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | (E)-3-[2-Methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-acrylic Acid Tert-butyl Ester | 1.35 g, 82% | C(C)(C)(C)OC(\C=C\C1=C(C=C(C=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)C)=O | C26H28N4O3
